* Created by KLayout
*** My special header ***

* cell bias40u
* pin ib40u
* pin is40u
* pin vdd
* pin vss
.SUBCKT bias40u ib40u is40u vdd vss
* device instance $1 r0 *1 10.85,40.4 NMOS
XM$1 vss ib40u ib40u vss NMOS L=2u W=20u AS=43p AD=30p PS=38.6u PD=26u
* device instance $3 r0 *1 20.85,40.4 NMOS
XM$3 vss ib40u \$8 vss NMOS L=2u W=20u AS=30p AD=43p PS=26u PD=38.6u
* device instance $5 r0 *1 10.85,104.65 PMOS
XM$5 vdd \$8 \$8 vdd PMOS L=2u W=45u AS=96.75p AD=67.5p PS=76.1u PD=51u
* device instance $7 r0 *1 20.85,104.65 PMOS
XM$7 vdd \$8 is40u vdd PMOS L=2u W=45u AS=67.5p AD=96.75p PS=51u PD=76.1u
.ENDS bias40u
